US04771046
(1R,5S,6S)-2-[2-(4-Methyl-3-oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid (Compound No. 4)
The procedure of Example 1(3) was repeated, except that 100 mg of p-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 90 mg of 2-(4-methyl-3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride were used. After hydrogenation and filtration over "Celite" (Trade Mark) filter aid, the filtrate was extracted twice with 20 ml portions of diethyl ether. The aqueous phase was concentrated by evaporation under reduced pressure, and the residue was purified by chromatography through a Lobar column (Merck "LiChloprep RP-8", size B, two columns), eluted with 2% aqueous methanol, to give 10 mg of the title compound.

reactant | p-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 100 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 2-(4-methyl-3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride | 90 mg | Cl.CN1C(CN(CC1)C(CS)=N)=O
product | (1R,5S,6S)-2-[2-(4-Methyl-3-oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | 10 mg | CN1C(CN(CC1)C(CSC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)=N)=O | C17H24N4O5S
